US08461158B2
Reaction of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole (WO 2006/095906) with tert-butyl 4-[(3-hydroxypropyl)amino]-1-piperidinecarboxylate in DMF and DIPEA as in Example 21 gave tert-butyl 4-[[4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl](3-hydroxypropyl)amino]-1-piperidinecarboxylate in 83% yield: mp (CH2Cl2/hexanes) 188-190° C.; 1H NMR (DMSO-d6) (rotamers) δ 8.45 and 8.35 (2d, J=7.9, 8.3 Hz, 1H), 7.83 and 7.75 (2t, JHF=52.9 Hz, 1H), 7.85 (2d, J=8.0 Hz, 1H), 7.54-7.41 (m, 2H), 4.72-4.65 and 4.56-4.51 (2m, 1H), 4.58 and 4.48 (2t, J=4.8, 5.0 Hz, 1H), 4.15-4.07 (m, 2H), 3.83-3.78 (m, 4H), 3.70 (m, 4H), 3.62-3.47 (m, 4H), 2.81 (m, 2H), 1.78-1.65 (m, 6H), 1.42 (s, 9H); Anal Calcd. for C28H38F2N8O4: C, 57.1; H, 6.5; N, 19.0. Found: C, 57.4; H, 6.3; N, 19.1%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | tert-butyl 4-[(3-hydroxypropyl)amino]-1-piperidinecarboxylate | OCCCNC1CCN(CC1)C(=O)OC(C)(C)C | C13H26N2O3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DIPEA | CCN(C(C)C)C(C)C | C8H19N
product | tert-butyl 4-[[4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl](3-hydroxypropyl)amino]-1-piperidinecarboxylate | 83% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CCN(CC1)C(=O)OC(C)(C)C)CCCO)C=CC=C2)F | C28H38F2N8O4
